US07560558B2
4-Chloro-6-methoxy-7-methyl-quinazoline (99 mg) was dissolved in N,N-dimethylformamide (6 ml) to prepare a solution. Triethylamine (0.6 ml) and 20% palladium hydroxide (4 mg) were added to the solution, and the mixture was stirred under hydrogen pressure at room temperature overnight. The reaction solution was filtered through Celite and was then washed with chloroform and methanol, and the solvent was removed by distillation under the reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-methanol to give 6-methoxy-7-methyl-quinazoline (76 mg, yield 93%).

reactant | 4-Chloro-6-methoxy-7-methyl-quinazoline | 99 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)C | C10H9ClN2O
reactant | Triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
catalyst | palladium hydroxide | 4 mg | [OH-].[Pd+2].[OH-]
product | 6-methoxy-7-methyl-quinazoline | 76 mg, yield 93% | COC=1C=C2C=NC=NC2=CC1C | C10H10N2O
